US07875645B2
d) (3-Bromo-2,6-diethyl-phenyl)-acetonitrile
To a solution of 6.28 g (24 mmol) 1-bromo-3-chloromethyl-2,4-diethyl-benzene in 120 ml tetrahydrofurane/N,N-dimethylformamide 1:1 cooled to 0° C. were added 1.76 g (36 mmol) sodium cyanide. The mixture was warmed to 50° C. and stirred at this temperature over night. Then the reaction mixture was diluted with ethyl acetate and extracted several times with water. The organic phase was dried over Na2SO4, filtered and evaporated: 7.2 g (3-bromo-2,6-diethyl-phenyl)-acetonitrile that did not require further purification.

reactant | 1-bromo-3-chloromethyl-2,4-diethyl-benzene | 24 mmol, 6.28 g | BrC1=C(C(=C(C=C1)CC)CCl)CC | C11H14BrCl
reactant | sodium cyanide | 36 mmol, 1.76 g | [C-]#N.[Na+]
solvent | tetrahydrofurane N,N-dimethylformamide | 120 ml | O1CCCC1.CN(C=O)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Bromo-2,6-diethyl-phenyl)-acetonitrile | BrC=1C(=C(C(=CC1)CC)CC#N)CC | C12H14BrN
